US04311787
Preparation 5: compound 5 1-(p-carboxyphenyl)-3-ethoxycarbonyl-4-(p-hydroxybenzylidene)-2-pyrazolin-5-one
276 g (1 mole) of 1-(p-carboxyphenyl)-3-ethoxycarbonyl-2-pyrazolin-5-one and 122 g (1 mole) of p-hydroxybenzaldehyde were dissolved in 1000 ml of acetic acid. The reaction mixture was refluxed for 3 h. The dye crystallized partially. After cooling to room temperature the dye was filtered with suction and rinsed with acetone.

reactant | 1-(p-carboxyphenyl)-3-ethoxycarbonyl-2-pyrazolin-5-one | 1 mole, 276 g | C(=O)(O)C1=CC=C(C=C1)N1N=C(CC1=O)C(=O)OCC | C13H12N2O5
reactant | p-hydroxybenzaldehyde | 1 mole, 122 g | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | acetic acid | 1000 ml | C(C)(=O)O | C2H4O2
product | 1-(p-carboxyphenyl)-3-ethoxycarbonyl-4-(p-hydroxybenzylidene)-2-pyrazolin-5-one | C(=O)(O)C1=CC=C(C=C1)N1N=C(C(C1=O)=CC1=CC=C(C=C1)O)C(=O)OCC | C20H16N2O6
